US05834506
{4-[2-(4-Hydroxy-2-isopropyl-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-phenyl}-carbamic acid 1,1-dimethylethyl ester
The title compound was prepared from [4-(4-methyl-3-oxo-pentyl)-phenyl]-carbamic acid 1,1-dimethylethyl ester obtained in Example PPPPP (2.1 g, 7.2 mmol), methyl acetoacetate (2.1 g, 18.1 mmol), 60% NaH (0.80 g, 20 mmol), and n-butyllithium (14 mL of 1.5M, 21 mmol) in THF as described in General Method 6. The product was carried on crude to the next step.

reactant | [4-(4-methyl-3-oxo-pentyl)-phenyl]-carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NC1=CC=C(C=C1)CCC(C(C)C)=O)=O | C17H25NO3
reactant | methyl acetoacetate | 18.1 mmol, 2.1 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 20 mmol, 0.80 g | [H-].[Na+]
reactant | n-butyllithium | 21 mmol, 1.5M, 14 mL | C(CCC)[Li]
solvent | THF | C1CCOC1 | C4H8O
product | {4-[2-(4-Hydroxy-2-isopropyl-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-phenyl}-carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NC1=CC=C(C=C1)CCC1(OC(C=C(C1)O)=O)C(C)C)=O | C21H29NO5
